Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Sulfamethoprim / Iodinated Contrast Media - IV Dye / aspirin
 
Attending: ___.
 
Chief Complaint:
Right ___ toe osteomyelitis
 
Major Surgical or Invasive Procedure:
___ R ___ toe and metatarsal joint excision
___ Balloon Angioplasty right anterior tibial artery and 
bedside ___ metatarsal space closure

 
History of Present Illness:
___ h/o HTN, DM, chronic R ___ toe ulcer presented to BID-N on 
___ with
worsening R toe wound and erythema that is spreading into her
foot.  In the ED, her WBC was 17.1, glucose was 587 treated with 
5 units short acting insulin and dosed with vaoncomycin and 
zosyn. 

MRI performed on ___ showed acute osteomyelitis of the R ___
toe. On ___, she underwent emergent ___ toe and metatarsal head
resection by podiatry. She was noted to have minimal bleeding 
and
a significant amount of pus in the soft tissue.  She was 
transferred to ___ for evaluation and management of her 
vascular status.
 
Past Medical History:
DMI (HgA1C 9.8), HTN  
 

 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
Physical Exam on Discharge:
VS: 98.3F 80 HR 154/73 BP RR 18 100%RA
Gen: AAOx3, anxious but not in pain
CV: RRR, no MRG
Pulm: CTAB, no adventious breath sounds
Abd: soft, non tender non distended 
RLE: clean closed amputation site at ___ toe, decreased 
erythema, emacerated skin around ___ and ___ toe
LLE: warm well perfused 
 
Pertinent Results:
___ 08:30AM BLOOD WBC-13.0* RBC-3.52* Hgb-10.1* Hct-31.6* 
MCV-90 MCH-28.8 MCHC-32.1 RDW-13.7 Plt ___
___ 08:30AM BLOOD Glucose-344* Creat-1.1
___ 07:10AM BLOOD %HbA1c-9.8* eAG-235*

              
Intraoperative Culture  Final                                    
___
Rare Growth STREPTOCOCCUS AGALACTIAE
                       Target Route Dose               RX     AB 
  Cost M.I.C.    IQ    
                       ------ ----- ------------------ ------ -- 
------ --------- ------
       AMPICILLIN                                      S         
       <=0.25          
       CLINDAMYCIN                                     R         
       >=1             
       ERYTHROMYCIN                                    R         
       >=8             
       INDUCIBLE CLIND                                 -         
       NEG             
       LEVOFLOXACIN                                    R         
       >=16            
       LINEZOLID                                       S         
       <=2             
       BENZYLPENICILLI                                 S         
       <=0.06          
       TETRACYCLINE                                    R         
       >=16            
       VANCOMYCIN                                      S         
       0.5             
       CEFTRIAXONE                                     S         
       <=0.12          

> ANAEROBIC CULTURE  Final                                       
  ___       
         No anaerobic growth

Discharge laboratory values:

___ 06:55AM BLOOD WBC-9.3 RBC-3.19* Hgb-9.6* Hct-29.0* 
MCV-91 MCH-30.0 MCHC-33.1 RDW-14.7 Plt ___
___ 10:17AM BLOOD WBC-11.3* RBC-3.18* Hgb-9.5* Hct-29.0* 
MCV-91 MCH-29.8 MCHC-32.7 RDW-14.0 Plt ___
___ 08:30AM BLOOD WBC-13.0* RBC-3.52* Hgb-10.1* Hct-31.6* 
MCV-90 MCH-28.8 MCHC-32.1 RDW-13.7 Plt ___
___ 06:55AM BLOOD Plt ___
___ 10:17AM BLOOD Plt ___
___ 08:30AM BLOOD Glucose-344* Creat-1.1
___ 09:00PM BLOOD Calcium-9.2 Phos-3.3 Mg-2.2
___ 07:10AM BLOOD %HbA1c-9.8* eAG-___*
 
Brief Hospital Course:
Ms. ___ presented to ___ with chronic R ___ toe ulcer 
with erythema spreading into her foot.  In the ED, her WBC was 
17.1 and glucose was 587.  She was treated with vancomycin and 
zosyn. MRI was performed on ___ showed acute osteomyelitis of 
the R ___ toe. On ___, she underwent emergent ___ toe and 
metatarsal head resection by podiatry. She was noted to have 
minimal bleeding and
a significant amount of pus in the soft tissue. OR cultures grew 
Group B strep.  

She was transferred to ___ for concern for poor wound 
healing.  Vascular surgery was consulted.  ABI and duplex of the 
right lower extremities were performed and showed severe 
calcification with non compressible vessels concerning for 
tibial occlusive disease on the right. The right great toe 
pressure is 31 mm Hg.  

On ___, she underwent successful balloon angioplasty of the 
right anterior tibial artery.  Her right pedal pulses were 
palpable post procedure. On ___, her toe amputation was closed 
at the bedside. She will remain on augmentin for 10 days on 
discharge for the staph postivie wound culture from the 
operating room sample from the outside hospital. 

Her hospitalization was complicated by poor glycemic control. 
___ was consulted on ___ and adjusted pt's insulin 
regime.  She received contrast desensitization protocol 
including Prednisone, in preparation for her balloon 
angioplasty.  At this point, her glucoses were still >500.  This 
was thought to be secondary to the prednisone.  ___ educator 
has been working with patient and feels that pt is not capable 
of accurately dosing her own insulin.  Case management, OT and 
___ were consulted.

She is heel weight bearing only on the operative side until 
follow up. She worked with ___ which has recommended rehab. 

She is instructed to follow up with her podiatrist in ___ days 
for wound check and this appointment has been scheduled for her. 
We will also arrange follow up with vascular surgery in 4 weeks 
with duplex to assess right lower extremity circulation. The 
patient and the patient's son who is the health care proxy 
understand and are ammenable to this treatment plan. 
 
Medications on Admission:
Amlodipine 10mg PO once daily
Regular Insulin sliding scale
Lantus 15 units at HS
Coreg 3.125 PO once daily
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain, fever 
RX *acetaminophen [8 HOUR PAIN RELIEVER] 650 mg 1 tablet(s) by 
mouth every six (6) hours Disp #*50 Tablet Refills:*0
2. Glargine 12 Units Breakfast
Insulin SC Sliding Scale using REG Insulin
3. Polyethylene Glycol 17 g PO DAILY constipation 
4. Clopidogrel 75 mg PO DAILY 
30 DAY DURATION ONLY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*23 
Tablet Refills:*0
5. Carvedilol 3.125 mg PO DAILY 
6. Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 7 Days 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tab by mouth 
twice a day Disp #*7 Tablet Refills:*0
7. Amlodipine 10 mg PO DAILY 
8. Lorazepam 0.5 mg PO Q6H:PRN anxiety 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Osteomyelitis ___ right toe/metatarsal joint
Peripheral Arterial Disease
Diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Ms. ___,
It was a pleasure taking care of you here at ___ 
___. You were admitted to our hospital with 
an infected right ___ toe. You were treated with IV antibiotics. 
An angiogram showed an occlusion that opened the right AT artery 
in your leg to improve circulation and promote healing.  We 
needed to remove the ___ leg toe secondary to infection. You 
tolerated the procedures well and are now ready to be discharged 
to home. Please follow the recommendations below to ensure a 
speedy and uneventful recovery.

Division of Vascular and Endovascular Surgery
Lower Extremity Angioplasty/Stent Discharge Instructions

MEDICATION:
 •Take Plavix (Clopidogrel) 75mg once daily for the next month. 
After the course is completed, take aspirin 81mg daily for your 
vascular disease. 
•Continue all other medications you were taking before surgery, 
unless otherwise directed
•You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort

WHAT TO EXPECT:
It is normal to have slight swelling of the legs:
•Elevate your leg above the level of your heart with pillows 
every ___ hours throughout the day and night
•Avoid prolonged periods of standing or sitting without your 
legs elevated
•It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
•Drink plenty of fluids and eat small frequent meals
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

ACTIVITIES:
•When you go home, you may walk and use stairs
•You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
•Your groin incision may be left uncovered, unless you have 
small amounts of drainage from the wound, then place a dry 
dressing or band aid over the area.  
•On the side of your amputation you are heel weight bearing 
only for ___ weeks.  Please keep this area dry and covered.  No 
showers or soaking of the foot until your follow up with your 
podiatrist. 
•You should keep this amputation site elevated when ever 
possible. 
 •No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
•No driving until you are no longer taking pain medications

 
Followup Instructions:
___